US08877782B2
6-[3-(3,4-Difluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-N-(3-hydroxy-2,2-dimethyl-propyl)-nicotinamide
As described for example 125f, 6-[3-(3,4-difluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (200 mg, 0.56 mmol) was converted, using 3-amino-2,2-dimethyl-1-propanol instead of 2,2,2-trifluoroethylamine, to the title compound (120 mg, 48%) which was obtained as a colourless oil. MS: m/e=432.2 [M+H]+.

reactant | 6-[3-(3,4-difluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 0.56 mmol, 200 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC(=C(C=C1)F)F)=O | C18H14F2N2O4
reactant | 3-amino-2,2-dimethyl-1-propanol | NCC(CO)(C)C | C5H13NO
product | 6-[3-(3,4-Difluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-N-(3-hydroxy-2,2-dimethyl-propyl)-nicotinamide | 120 mg, 48% | FC=1C=C(C=CC1F)C1=NOC(=C1COC1=NC=C(C(=O)NCC(CO)(C)C)C=C1)C | C22H23F2N3O4
